US04229464
31.0 4-benzyloxy-2-ethoxycarbonyl-6-methyl indole (see preparation of the primary products in connection with Example 1) are heated to boiling in a mixture of 100 ml ethanol and 100 ml water during addition of 7.0 potassium hydroxide, for 2 to 3 hours. The ethanol is then evaporated in vacuum and the remaining, water alkaline solution is acidified with conc. hydrochloric acid. The resulting precipitate is aspirated, thoroughly washed with water and dried. There is obtained 27.6 g (~95% of theory) 4-benzyloxy-2-carboxy-6-methyl indole; m.p. 178°-180° C.

reactant | 4-benzyloxy-2-ethoxycarbonyl-6-methyl indole | C(C1=CC=CC=C1)OC1=C2C=C(NC2=CC(=C1)C)C(=O)OCC | C19H19NO3
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 4-benzyloxy-2-carboxy-6-methyl indole | 27.6 g, ~95% | C(C1=CC=CC=C1)OC1=C2C=C(NC2=CC(=C1)C)C(=O)O | C17H15NO3
